Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Vomiting
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ yo F with recently diagnosed papillary 
thyroid ca s/p total thyroidectomy on ___, who presents with 
4 day hx of nausea, vomiting, and paresthesias, found to have 
acute kidney injury and hypocalcemia.

The patient's surgery was on ___. She felt well 
afterwards. On ___ started having NBNB vomiting, multiple 
episodes per day, with decreased PO intake. Some associated 
generalized abdominal pain. No blood in stool. 

Notably, patient also noted tingling/numbness in fingertips 
around this time. No ___ numbness or seizures.

She presented to urgent care morning of ___ and was found to 
have ___ and hypocalcemia. Notably, patient also noticed 
cramping of her hand with blood pressure cuff. Given 1500 mg Ca 
prior to arrival to ED. In ED, patient had Cr 2.7 (baseline 0.7 
in ___ and Ca 6.4.

In the ED, initial vitals: 98.4  63  120/63  17  100% RA  
- Labs notable for: Ca 6.4, Cr 2.7
- Pt given: 2L NS, 2g calcium gluconate
- Vitals prior to transfer: 98.5  60  128/71  16  99% RA  

On arrival to the floor, pt reported feeling generally well. 
Continued to report slight tingling in fingertips. No longer 
felt nausea, abdominal pain. Did report slight right flank pain, 
deep, intermittent without other urinary symptoms.

 
Past Medical History:
None
 
Social History:
___
Family History:
Notably, father living, with thyroid cancer (unknown subtype).
 
Physical Exam:
ADMISSION EXAM
==============
Vitals: 98.0  128/83  50  18  96  Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, PERRL; + Chvostek's Sign
Lungs: CTAB  
CV: RRR, no MRG  
Abdomen: Soft, NT/ND, bowel sounds present; mild right CVA 
tenderness
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN2-12 grossly intact, no focal deficits 

DISCHARGE EXAM
==============
Vitals: 97.3  128/79  57  18  98Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, PERRL
Lungs: CTAB  
CV: RRR, no MRG  
Abdomen: Soft, NT/ND, bowel sounds present; mild right CVA 
tenderness
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN2-12 grossly intact, no focal deficits 
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:40PM BLOOD Glucose-95 UreaN-31* Creat-2.7*# Na-136 
K-3.9 Cl-99 HCO3-22 AnGap-15
___ 07:40PM BLOOD ALT-7 AST-10 AlkPhos-46 TotBili-0.3
___ 07:40PM BLOOD Albumin-3.9 Calcium-6.4* Phos-5.5* Mg-2.0

NOTABLE LABS
============
___ 07:40PM BLOOD Osmolal-291
___ 03:40PM BLOOD PTH-PND
___ 04:20AM BLOOD 25VitD-15*

___ 01:07AM BLOOD freeCa-0.81*
___ 03:54PM BLOOD freeCa-0.90*
___ 07:49PM BLOOD freeCa-1.06*
___ 06:18AM BLOOD freeCa-1.06*
___ 01:36PM BLOOD freeCa-1.18
___ 05:47PM BLOOD freeCa-1.15

___ 07:40PM BLOOD Calcium-6.4* Phos-5.5* Mg-2.0
___ 04:20AM BLOOD Calcium-6.5* Phos-5.8* Mg-1.8
___ 03:00PM BLOOD Calcium-6.5* Phos-5.0* Mg-1.9
___ 05:15AM BLOOD Calcium-8.2* Phos-5.8* Mg-1.7
___ 01:24PM BLOOD Calcium-9.7 Phos-5.9* Mg-1.6
___ 05:10PM BLOOD Calcium-9.4 Phos-6.2* Mg-1.5*
___ 05:30AM BLOOD Calcium-9.0 Phos-6.8* Mg-1.6

MICRO
=====
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 

IMAGING
=======
___ RENAL US
IMPRESSION:  
Normal renal ultrasound. 

DISCHARGE LABS
==============
___ 05:30AM BLOOD Glucose-91 UreaN-26* Creat-1.9* Na-140 
K-4.6 Cl-100 HCO3-24 AnGap-16
___ 05:30AM BLOOD Calcium-9.0 Phos-6.8* Mg-1.6
___ 07:55AM BLOOD ___ pH-7.37 Comment-GREEN TOP
___ 07:55AM BLOOD freeCa-1.07*
 
Brief Hospital Course:
HOSPITAL COURSE
===============
Ms. ___ is a ___ yo F with recently diagnosed papillary 
thyroid CA s/p total thyroidectomy on ___, who presented 
with 4 day hx of nausea, vomiting, and paresthesias, found to 
have acute kidney injury and hypocalcemia. 

ACTIVE ISSUES
=============
# Hypocalcemia: Ca 6.5 on admission. Likely related to injury to 
parathyroid glands during thyroidectomy, whether direct excision 
or disruption of vascular supply. Exacerbated by patient not 
taking post-op calcium supplementation. Symptomatic with 
paresthesias, but no EKG changes or seizure. Improved 
dramatically with Ca repletion on ___ (CaGluc 8g IV over 24 
hours starting ___. Discharge Ca 9.0. Discharged on CaC03 1000 
mg PO TID, Calcitriol 0.25 mg QD, 2000U Vit D QD with follow up 
next week.

# Acute kidney injury: Creatinine 2.7 from baseline 0.7 one 
month prior. FeNa 1.3%. Vomiting and decreased PO intake prior 
to admission would suggest pre-renal cause. Right CVA tenderness 
of unclear significance, low concern for pyelonephritis or renal 
infarct, renal ultrasound normal. While ___ may exacerbate 
hypocalcemia, there is no clear causal relationship indicating 
hypocalcemia as cause of ___. Perhaps ATN combined with 
pre-renal. Improved to Cr 1.9 on discharge, will f/u next week 
to ensure trending down, otherwise will require further work-up.

# Papillary thyroid cancer s/p total thyroidectomy: Continued 
levothyroxine 112 mcg QAM.

TRANSITIONAL ISSUES
===================
[] Endocrinology follow-up on ___ at 9:30 AM
[] Labs to be drawn prior to appointment at ___ Lab: BMP, Ca, 
Phosphorus, PTH
[] New medications
- Calcitriol 0.25 mcg PO DAILY 
- Calcium Carbonate 1000 mg PO/NG TID 
- Vitamin D ___ UNIT PO/NG DAILY 

I have seen and examined Ms. ___ reviewed the findings, data, 
and plan of care documented by Dr. ___, MD dated ___ 
and agree with the discharge summary and plan.

___, MD, PharmD
Section of ___ Medicine
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 112 mcg PO DAILY 

 
Discharge Medications:
1.  Calcitriol 0.25 mcg PO DAILY 
RX *calcitriol 0.25 mcg 1 capsule(s) by mouth Daily Disp #*30 
Capsule Refills:*0 
2.  Calcium Carbonate 1000 mg PO TID 
RX *calcium carbonate 500 mg calcium (1,250 mg) 2 tablet(s) by 
mouth three times a day Disp #*90 Tablet Refills:*0 
3.  Vitamin D ___ UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
Daily Disp #*30 Tablet Refills:*0 
4.  Levothyroxine Sodium 112 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypocalcemia
Acute kidney injury 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with low calcium and kidney 
damage. The low calcium levels are common after thyroid surgery, 
and improved when we replaced the calcium. We're not sure what 
caused the kidney damage, perhaps being dehydrated. The function 
started to improve while in the hospital, though.

You will see your endocrinologist on ___. Please get your 
labs checked prior to your appointment.

It was a privilege to care for you in the hospital, and we wish 
you all the best.

Sincerely,

Your ___ Health Team
 
Followup Instructions:
___